US07153855B2
To a solution of 2-(3-bromophenyl)-N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-7-amine (500 mg, 0.97 mmol) in N,N-dimethylformamide (25 mL) was added zinc cyanide (68 mg, 0.58 mmol), tris(dibenzylidineacetone)bipalladium(0) (888 mg, 0.97 mmol) and 1,1′-bis(diphenylphosphino) ferrocene (1.29 g, 2.3 mmol). The resultant mixture was heated at 120° C. for 20 hours. After cooling to room temperature, ethyl acetate was added to the reaction mixture. The organic phase was washed with water, brine and dried over magnesium sulfate. Filtration and concentration, followed by purification with flash chromatography (40:60 ethyl acetate:hexanes) gave 3-{7-(cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}benzonitrile (0.19 g, yield 42%) as a yellow foam. 1H NMR (CDCl3): δ 8.07 (m, 2H), 7.89 (d, 1H), 7.70 (d, 1H), 7.62 (d, 1H), 7.52 (t, 1H), 7.33 (t, 1H), 6.33 (d, 1H), 6.06 (d, 1H), 6.00 (d, 1H), 5.16 (d, 1H), 4.25 (m, 1H), 4.02 (m, 1H), 2.15 (m, 2H), 2.03 (m, 2H), 1.85–1.51 (m, 12H). MS m/z 464 (M+1).

reactant | 2-(3-bromophenyl)-N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-7-amine | 0.97 mmol, 500 mg | BrC=1C=C(C=CC1)C1=NN2C(C=CC=C2NC2CCCC2)=C1C1=NC(=NC=C1)NC1CCCC1 | C27H29BrN6
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 0.58 mmol, 68 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | 1,1′-bis(diphenylphosphino) ferrocene | 2.3 mmol, 1.29 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 3-{7-(cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}benzonitrile | 0.19 g, yield 42% | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C=2C=C(C#N)C=CC2 | C28H29N7
